US08017809B2
Bis(4,4′-(naphthyldimethylaminoethoxyboryl)phenyl) ether
The entitled compound (32 mg) was obtained by allowing 86 mg of bis(4,4′-(naphthyl-hydroxyboryl)phenyl) ether and 31 mg of dimethylethanolamine to act in 0.25 mL of ethanol.

reactant | bis(4,4′-(naphthyl-hydroxyboryl)phenyl) ether | 86 mg | C1(=CC=CC2=CC=CC=C12)B(O)C1=C(C=CC=C1)OC1=C(C=CC=C1)B(O)C1=CC=CC2=CC=CC=C12 | C32H24B2O3
reactant | dimethylethanolamine | 31 mg | CN(CCO)C | C4H11NO
solvent | ethanol | 0.25 mL | C(C)O | C2H6O
product | Bis(4,4′-(naphthyldimethylaminoethoxyboryl)phenyl) ether | C1(=CC=CC2=CC=CC=C12)B(OCCN(C)C)C1=C(C=CC=C1)OC1=C(C=CC=C1)B(OCCN(C)C)C1=CC=CC2=CC=CC=C12 | C40H42B2N2O3
